US05082856
To 25 ml of tetrahydrofuran were added 1.50 g (5.11 mmol) of 5-tridecylpyrrole-3-carboxylic acid and 1.27 g (6.15 mmol) of dicyclohexylcarbodiimide, followed by adding 3.8 ml of n-propyl alcohol and 62 mg of dimethylaminopyridine. Then the mixture was heated at 60° C. for 10 hours under stirring. After cooling, the resulting precipitates were filtered off and washed well with ether. The filtrate and the washing liquid were combined and concentrated. The residue was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/20) to obtain 1.26 g (73% yield) of propyl 5-tridecylpyrrole-3-carboxylate, m.p. 51°-52° C.

reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | 5-tridecylpyrrole-3-carboxylic acid | 5.11 mmol, 1.50 g | C(CCCCCCCCCCCC)C1=CC(=CN1)C(=O)O | C18H31NO2
reactant | dicyclohexylcarbodiimide | 6.15 mmol, 1.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 62 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | n-propyl alcohol | 3.8 ml | C(CC)O | C3H8O
product | propyl 5-tridecylpyrrole-3-carboxylate | 1.26 g, 73% yield | C(CCCCCCCCCCCC)C1=CC(=CN1)C(=O)OCCC | C21H37NO2
